US08283353B2
4-(trans-4-{2-[(2R,6S)-2,6-dimethylmorpholin-4-yl]ethoxy}cyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of hydroxylammonium chloride (0.51 g), sodium hydrogen carbonate (0.82 g) and dimethyl sulfoxide (10 mL) was stirred at 40° C. for 30 min, 4′-{[4-(trans-4-{2-[(2R,6S)-2,6-dimethylmorpholin-4-yl]ethoxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (0.3 g) was added, and the mixture was stirred at 90° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (10 mL). N,N′-Carbonyldiimidazole (0.095 g) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.081 mL) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into water, and the mixture was adjusted to pH 7 with 1 N hydrochloric acid and extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as colorless crystals (0.19 g, 59%).

reactant | hydroxylammonium chloride | 0.51 g | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 0.82 g | C(O)([O-])=O.[Na+]
reactant | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
reactant | 4′-{[4-(trans-4-{2-[(2R,6S)-2,6-dimethylmorpholin-4-yl]ethoxy}cyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.3 g | C[C@@H]1CN(C[C@@H](O1)C)CCO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C36H44N6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(trans-4-{2-[(2R,6S)-2,6-dimethylmorpholin-4-yl]ethoxy}cyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.19 g, 59% | C[C@@H]1CN(C[C@@H](O1)C)CCO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2 | C37H45N7O5
